US09340513B2
To a solution of (E)-3-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-9-hydroxy-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-3a-yl)-2-methylacrylic acid (350 mg, 0.685 mmol), 1-(4-chlorophenyl)cyclopropanamine hydrochloride (154 mg, 0.754 mmol) and HATU (521 mg, 1.371 mmol) in DMF (2 mL) stirred at 0° C. was added DIPEA (0.479 mL, 2.74 mmol). The reaction mixture was stirred at 20° C. for 1 h. The reaction mixture was pH adjusted to 3-4 with 2 M HCl and filtered. The solid was washed with water (50 mL), dissolved into DCM, dried over sodium sulfate and evaporated in vacuo to give the crude (E)-N-(1-(4-chlorophenyl)cyclopropyl)-3-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-9-hydroxy-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-3a-yl)-2-methylacrylamide (650 mg, 0.680 mmol, 99%) as a yellow solid.

reactant | (E)-3-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-9-hydroxy-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-3a-yl)-2-methylacrylic acid | 0.685 mmol, 350 mg | O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)/C=C(/C(=O)O)\C)C)C)(C)C | C33H50O4
reactant | 1-(4-chlorophenyl)cyclopropanamine hydrochloride | 0.754 mmol, 154 mg | Cl.ClC1=CC=C(C=C1)C1(CC1)N
reactant | HATU | 1.371 mmol, 521 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 2.74 mmol, 0.479 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 2 M | Cl | ClH
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (E)-N-(1-(4-chlorophenyl)cyclopropyl)-3-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-9-hydroxy-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-3a-yl)-2-methylacrylamide | 0.680 mmol, 650 mg, 99% | ClC1=CC=C(C=C1)C1(CC1)NC(\C(=C\[C@]12C([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)O)C)=C(C(C2)=O)C(C)C)\C)=O | C42H58ClNO3
